US07425653B2
(1-2) Synthesis of 2-(6-methyl-2-naphthyl)benzaldehyde
Under an atmospheric argon gas flow, 2-bromo-6-methylnaphthalene in an amount of 6.6 g (30 mmol), 2-formylphenylboronic acid in an amount of 5.4 g (36 mmol), (tetrakistriphenylphosphine)palladium in an amount of 0.7 g (0.6 mmol), 2N sodium carbonate aqueous solution in an amount of 45 milliliter and dimethoxyethane in an amount of 90 milliliter were placed into a three neck flask with a cooling pipe and having a capacity of 500 milliliter, and the resultant solution was refluxed under heating for 8 hours. After the reaction terminated, adding water in an amount of 100 milliliter into the reacted solution, an organic layer was separated and washed with the use of sodium chloride solution, followed by drying with the use of magnesium sulfate. After removing the solvent by distillation by means of a rotary evaporator, the resultant crude product was refined by means of column chromatography (silicagel, hexane/dichloromethane=60/40), and as a result, 6.7 g of aimed compound (white crystal) was obtained (yield: 91%).

reactant | 2-bromo-6-methylnaphthalene | BrC1=CC2=CC=C(C=C2C=C1)C | C11H9Br
reactant | 2-formylphenylboronic acid | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | sodium carbonate | 2N | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 2-(6-methyl-2-naphthyl)benzaldehyde | 6.7 g, yield: 91% | CC=1C=C2C=CC(=CC2=CC1)C1=C(C=O)C=CC=C1 | C18H14O
